US08754229B2
Preparation of 6-bromo-2-chloro-3-(difluoromethoxy)pyridin-4-amine
4-Azido-6-bromo-2-chloro-3-(difluoromethoxy)pyridine (0.563 g, 1.880 mmol) was then dissolved in CH3OH (15 mL), and NaBH4 (0.107 g, 2.82 mmol) was added. The reaction mixture was stirred at ambient temperature for 15 min at which point thin-layer chromatographic (TLC) analysis indicated complete consumption of starting material. The reaction mixture was concentrated and partitioned between EtOAc and H2O. The organic phase was dried and concentrated. The product was purified by flash chromatography (SiO2, EtOAc/hexane gradient) to yield the title compound as a white solid (0.398 g, 77%): mp 138-140° C.; 1H NMR (600 MHz, DMSO-d6) δ 6.98 (t, J=73.1 Hz, 1H), 6.84 (d, J=14.6 Hz, 2H); EIMS m/z 274.

reactant | 4-Azido-6-bromo-2-chloro-3-(difluoromethoxy)pyridine | 1.880 mmol, 0.563 g | N(=[N+]=[N-])C1=C(C(=NC(=C1)Br)Cl)OC(F)F | C6H2BrClF2N4O
reactant | NaBH4 | 2.82 mmol, 0.107 g | [BH4-].[Na+]
solvent | CH3OH | 15 mL | CO | CH4O
product | 6-bromo-2-chloro-3-(difluoromethoxy)pyridin-4-amine | 0.398 g, 77% | BrC1=CC(=C(C(=N1)Cl)OC(F)F)N | C6H4BrClF2N2O
